US07807706B2
A mixture of 2-bromomethyl-6-iodo-benzoic acid methyl ester (0.245 g, 0.7 mmol), 3-[4-(4-fluoro-phenoxy)phenyl]-propylamine (0.193 g, 0.8 mmol), and K2CO3 (0.207 g, 1.5 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-{3-[4-(4-fluoro-phenoxy)-phenyl]-propyl}-7-iodo-2,3-dihydro-isoindol-1-one (0.086 g, 25%). 1H NMR (300 MHz, CDCl3): δ (ppm) 2.01 (m, 2H), 2.65 (t, 2H), 3.67 (t, 2H), 4.26 (s, 2H), 6.84-7.42 (m, 10H), 7.90 (d, 1H). GC-MS: m/z 487 (M)+.

reactant | 2-bromomethyl-6-iodo-benzoic acid methyl ester | 0.7 mmol, 0.245 g | COC(C1=C(C=CC=C1I)CBr)=O | C9H8BrIO2
reactant | 3-[4-(4-fluoro-phenoxy)phenyl]-propylamine | 0.8 mmol, 0.193 g | FC1=CC=C(OC2=CC=C(C=C2)CCCN)C=C1 | C15H16FNO
reactant | K2CO3 | 1.5 mmol, 0.207 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-{3-[4-(4-fluoro-phenoxy)-phenyl]-propyl}-7-iodo-2,3-dihydro-isoindol-1-one | 0.086 g, 25% | FC1=CC=C(OC2=CC=C(C=C2)CCCN2C(C3=C(C=CC=C3C2)I)=O)C=C1 | C23H19FINO2
